US07659294B2
Step A: 5-(4-Trifluoromethanesulfonyloxyphenyl)-2-pyrrolidinone
DIEA (2.89 mL, 16.6 mmol) was added to a solution of 5-(4-hydroxyphenyl)-2-pyrrolidinone (1.47 g, 8.30 mmol) and N-phenyltrifluoromethanesulfonimide (4.45 g, 12.45 mmol) in 10 mL of DMF, and the mixture was stirred at rt overnight. The reaction mixture was diluted with EtOAc (100 mL) and washed with brine (50 mL), H2O (3×50 mL), and brine (50 mL). The organic layer was separated, dried over MgSO4, and concentrated. Chromatography on a Biotage 40+M cartridge using EtOAc as the eluant afforded 2.45 g (96%) of the title compound as a white solid: 1H NMR δ 1.90-1.98 (m, 1H), 2.38-2.51 (m, 2H), 2.57-2.65 (m, 1H), 4.81 (t, 1=7.1, 1H), 6.92 (br. s, 1H), 7.27-7.30 (m, 2H), 7.38-7.42 (m, 2H).

reactant | DIEA | 16.6 mmol, 2.89 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-(4-hydroxyphenyl)-2-pyrrolidinone | 8.30 mmol, 1.47 g | OC1=CC=C(C=C1)C1CCC(N1)=O | C10H11NO2
reactant | N-phenyltrifluoromethanesulfonimide | 12.45 mmol, 4.45 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-(4-Trifluoromethanesulfonyloxyphenyl)-2-pyrrolidinone | 2.45 g, 96% | FC(S(=O)(=O)OC1=CC=C(C=C1)C1CCC(N1)=O)(F)F | C11H10F3NO4S
